US04608388
A rapid stream of acetylene was passed through a solution of 2M methyl magnesium bromide (100 ml) in THF until no more methane evolution was observed. 10 g of hexanal was added at 0° C., stirred for 1/2 h and a saturated solution of NH4Cl was added. The organic product was isolated by extraction with ether. The ether solution was washed with water, brine, dried over MgSO4 and evaporated to give a liquid, which was purified by distillation, to give 3-hydroxyoct-1-yne.

reactant | acetylene | C#C | C2H2
reactant | methyl magnesium bromide | 2M, 100 ml | C[Mg]Br
reactant | methane | C | CH4
reactant | hexanal | 10 g | C(CCCCC)=O | C6H12O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-hydroxyoct-1-yne | OC(C#C)CCCCC | C8H14O
